US07166598B2
To a solution of 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine (440 mg) in N,N-dimethylformamide (2.2 ml) were added (3R)-4-(2-chloroethyl)-3-(methoxymethyl)morpholine hydrochloride (289 mg), potassium carbonate (434 mg) and potassium iodide (149 mg) at room temperature. The whole was stirred at 73° C. for 2 hours. After being cooled to room temperature, the mixture was poured into ice-water and the aqueous mixture was made alkaline with saturated aqueous sodium hydrogen carbonate solution. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using mixed solvents of dichloromethane and methanol (40:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)-methoxy]-4-methylbenzyl]-4-[2-[(3R)-3-methoxymethyl-morpholino]ethyl]piperazine (450 mg) as a light yellowish oil.

reactant | 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine | 440 mg | FC(C=1C=C(C(=O)N2C(CNCC2)CC2=CC(=C(C=C2)C)OCOCCOC)C=C(C1)C(F)(F)F)(F)F | C25H28F6N2O4
reactant | (3R)-4-(2-chloroethyl)-3-(methoxymethyl)morpholine hydrochloride | 289 mg | Cl.ClCCN1[C@@H](COCC1)COC
reactant | potassium carbonate | 434 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 149 mg | [I-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
product | 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)-methoxy]-4-methylbenzyl]-4-[2-[(3R)-3-methoxymethyl-morpholino]ethyl]piperazine | 450 mg | FC(C=1C=C(C(=O)N2C(CN(CC2)CCN2[C@@H](COCC2)COC)CC2=CC(=C(C=C2)C)OCOCCOC)C=C(C1)C(F)(F)F)(F)F | C33H43F6N3O6
